US04226866
To a stirred mixture of 1-acetoxy-3-hydroxy-2-propanone (10.8 g., 0.1 mole) and sodium cyanate (13.0 g., 0.2 mole) in benzene (50 ml.) is slowly added trifluoroacetic acid (15.5 ml., 0.21 mole). The reaction mixture is stirred for three hours, then water (15 ml.) is added. The organic layer is separated, dried and the solvent removed under reduced pressure to afford 1-acetoxy-3-carbamoyloxy-2-propanone.

reactant | 1-acetoxy-3-hydroxy-2-propanone | 0.1 mole, 10.8 g | C(C)(=O)OCC(CO)=O | C5H8O4
reactant | sodium cyanate | 0.2 mole, 13.0 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.21 mole, 15.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 15 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-acetoxy-3-carbamoyloxy-2-propanone | C(C)(=O)OCC(COC(N)=O)=O | C6H9NO5
